US05739129
2-(3-Amino-2,4-dioxo-5-pyridin-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
A mixture of 2-[2,4-Dioxo-3(phenyl-hydrazono)-5-pyrdin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (460 mg), zinc dust (430 mg) and acetic acid (5.6 ml) was stirred at rt for 3 h. The solids were removed by filtration through celite, the filtrate was concentrated in vacuo and the residue azeotroped with hexane. The residue was dissolved in ethyl acetate (50 ml) and washed with 2N aqueous sodium bicarbonate (2×30 ml), water, (30 ml), brine (30 ml), dried (MgSO4) and concentrated in vacuo to afford the crude product (270 mg) which was used without further purification. 1H NMR (300 MHz, CDCl3); 1.03 (d, J=7 Hz, 6H), 3.79 (s, 3H), 4.02 (d J=10 Hz, 1H), 4.40 (s, 1H), 4.42 (d, J=10 Hz, 1H), 5.0 (sept, J=7.1 Hz, 1H), 6.8-7.3 (m, 10H), 7.44 (d, J=8.0 Hz 1H), 7.68 (d, J=8.0 Hz, 1H), 7.80 (m, 1H), 8.42 (d, J=3.9 Hz, 1H). Tlc (10% MeOH, CH2Cl2) Rf=0.23.

reactant | 2-[2,4-Dioxo-3(phenyl-hydrazono)-5-pyrdin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 460 mg | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O)=NNC2=CC=CC=C2 | C32H30N6O4
catalyst | zinc | 430 mg | [Zn] | Zn
solvent | acetic acid | 5.6 ml | C(C)(=O)O | C2H4O2
product | 2-(3-Amino-2,4-dioxo-5-pyridin-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 270 mg | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O | C26H27N5O4
